US03971773
B. 11β,17,21-Trihydroxy-16α-(2-phenyl-2-propenyloxy)-pregna-1,4-diene-3,20-dione
A solution of 1-diazo-2-phenyl-2-propene (prepared from 0.3 mole of N-nitrosourethane precursor) in methanolether at 0° is treated with 11β,16α,17,21-tetrahydroxypregna-1,4-diene-3,20-dione, 16,17-cycloborate (84 mmoles) until nitrogen evolution ceases. Solvent removal gives the title compound.

reactant | 1-diazo-2-phenyl-2-propene | 0.3 mole | [N+](=[N-])=CC(=C)C1=CC=CC=C1 | C9H8N2
reactant | 11β,16α,17,21-tetrahydroxypregna-1,4-diene-3,20-dione | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2C[C@H]([C@](C(CO)=O)([C@]2(C1)C)O)O)=O)C | C21H28O6
product | 11β,17,21-Trihydroxy-16α-(2-phenyl-2-propenyloxy)-pregna-1,4-diene-3,20-dione | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2C[C@H]([C@](C(CO)=O)([C@]2(C1)C)O)OCC(=C)C1=CC=CC=C1)=O)C | C30H36O6
